US05106871
Then, 20 ml of dimethylformamide was dropped into a mixture of 1-(2-hydroxy-4,6-dimethoxy-3-isopentylphenyl)-3-(4-methoxy-3-methoxymethoxyphenyl)-1-propanone and 0.4 g of sodium hydride at 0° C., and the mixture was stirred for 30 minutes. Then, 1.0 ml of methyl α-bromoacetate was added to the mixture at 0° C. and the mixture was stirred for 30 minutes. After the reaction, the solvent was removed from the reaction liquid mixture by distillation and the residue was dried under a reduced pressure to obtain substantially quantitatively 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-methoxy-3-methoxymethoxyphenyl)-1-propanone in the form of a colorless transparent oil.

reactant | 1-(2-hydroxy-4,6-dimethoxy-3-isopentylphenyl)-3-(4-methoxy-3-methoxymethoxyphenyl)-1-propanone | OC1=C(C(=CC(=C1CCC(C)C)OC)OC)C(CCC1=CC(=C(C=C1)OC)OCOC)=O | C25H34O7
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | methyl α-bromoacetate | 1.0 ml | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(4,6-dimethoxy-2-methoxycarbonylmethoxy-3-isopentylphenyl)-3-(4-methoxy-3-methoxymethoxyphenyl)-1-propanone | COC1=C(C(=C(C(=C1)OC)C(CCC1=CC(=C(C=C1)OC)OCOC)=O)OCC(=O)OC)CCC(C)C | C28H38O9
